US05362879
A mixture of methyl [3-[[(4,5-diphenyl-2-oxazolyl)methyl](methoxycarbonyl) amino]phenoxy]acetate (4.16 g, 9 mmol), LiOH.H2O (0.56 g, 13 mmol), MeOH (45 mL) and H2O (15 mL) was stirred at room temperature for about 3 hours. The solvent was removed in vacuo, the residue diluted with H2O and 2N HCl until pH=2 and a yellow solid filtered off. Recrystallization from a mixture of CH2Cl2 and hexanes gave [3-[[(4,5-diphenyl-2-oxazolyl)methyl](methoxycarbonyl)amino]phenoxy]acetic acid (2.25 g, 55%), mp 153-155° C. IR (KBr) 2700-2500 (CO2H), 1750 (NCO2CH3), 1710 (CO2H) cm-1 ; 1H NMR (CDCl3) δ3.68 (3H, s, NCO2CH3), 4.51 (2H, s, OCH2CO2H), 4.60 (1H, bs, CO2H), 4.95 (2H, s, CH2 -oxazole), 6.77 (1H, dd, J=9 Hz, J'=2 Hz, aromatic H), 6.94 (2H, m, aromatic H), 7.15 to 7.40 (7H, m, aromatic H), 7.45 to 7.65 (4H, m, aromatic H); MS m/z 459 (MH+).

reactant | methyl [3-[[(4,5-diphenyl-2-oxazolyl)methyl](methoxycarbonyl) amino]phenoxy]acetate | 9 mmol, 4.16 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CN(C=1C=C(OCC(=O)OC)C=CC1)C(=O)OC | C27H24N2O6
reactant | LiOH.H2O | 13 mmol, 0.56 g | O[Li].O
reactant | MeOH | 45 mL | CO | CH4O
solvent | H2O | 15 mL | O | H2O
product | [3-[[(4,5-diphenyl-2-oxazolyl)methyl](methoxycarbonyl)amino]phenoxy]acetic acid | 2.25 g, 55% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CN(C=1C=C(OCC(=O)O)C=CC1)C(=O)OC | C26H22N2O6
